* Model IR2153* (C)TAU 2009, (C) KaV 2010
  .subckt IR2153 Vcc Rt Ct COM VB HO VS LO
R5 ARB3_N1 Rt 100
Rdead ARB3_N2 ARB4_OUT 1k
Cdead ARB3_N2 COM 1.8n
RdlyH CdlyH_P ARB5_OUT 1k
CdlyH CdlyH_P COM 910p
RdlyL CdlyL_P ARB3_OUT 1k
CdlyL CdlyL_P COM 910p
GARB1 Vcc COM VALUE={(75u+500u*(V(Vcc,COM)>8)+5m*exp(10*
 + (V(Vcc,COM)-15.6)))*(V(Vcc,COM)>1)}
* Micropower startup VCC supply current 75u
* Quiescent VCC supply current 500u;
* VCC zener clamp voltage 15.6V On ICC = 5mA
EARB2 ARB3_N1 COM VALUE={V(ARB7_N1,COM)*(((V(Ct,COM)
 + <(V(ARB7_N1,COM)*2/3)) & (V(ARB3_N1,COM)>4)) | ((V(Ct,COM)
 +  <(V(ARB7_N1,COM)/3)) & (V(ARB3_N1,COM)<3)))}
EARB3 ARB3_OUT COM VALUE={5*( V(ARB3_N1,COM)>8 &
 +  V(ARB3_N2,COM)>2.5 )* (V(ARB3_N3,COM)>2.5)}
EARB4 ARB4_OUT COM VALUE={5*( V(ARB3_N1,COM)>0.1
 +  & V(Ct,COM)>V(ARB3_N1,COM)/3)}
EARB5 ARB5_OUT COM VALUE={5*( V(ARB3_N1,COM)<8 & V(ARB3_N2,COM)
 + <2.5 & V(ARB7_N1,COM)>1)}
EARB6 ARB7_N1 COM VALUE={V(Vcc,COM)*((V(Vcc,COM)>8 &
 + V(ARB7_N1,COM)>0.2)|(V(Vcc,COM)>9 & V(ARB7_N1,COM)<0.1))}
* VCC undervoltage lockout Hysteresis
EARB7 ARB3_N3 COM VALUE={4*( V(Ct,COM)>V(ARB7_N1,COM)/6)} ; * for Inhibit LO in SD mode
GARB8 Ct COM VALUE={(V(ARB7_N1,COM)<1)*0.8m*( V(Ct,COM)>0.1)}
 * ICTUV UV-mode CT pin pulldown current 0.8mA
 .IC V(Ct)=0 V(LO)=0; * V(Vs)=0; * V(COM)
S1 HO VS CdlyH_P COM SVL
S2 VB HO CdlyH_P COM SVH
S3 Vcc LO CdlyL_P COM SVH
S4 LO COM CdlyL_P COM SVL
D1 LO Vcc DM
D2 COM LO DM
D3 HO VB DM
D4 VS HO DM
 .MODEL SVH VSWITCH (RON=35 ROFF=1Meg VON=2.5 VOFF=2.45)
 .MODEL SVL VSWITCH (RON=18 ROFF=.1meg VON=2.45 VOFF=2.5)
 .model DM D(Ron=1 Roff=1Meg Vfwd=.5 Vrev=25)
 .ends IR2153
